US07217724B2
A solution of 2-[3-((2R)-2-{2-[4-(tert-butyldimethylsilyloxy)-phenyl]-(2R)-2-(triethylsilyloxy)ethylamino}-propyl)-1H-indol-7-yloxy]-N,N-diethylacetamide (40 mg, 0.060 mmol) and TBAF (261 mg, 1 mmol) in tetrahydrofuran (1 mL) is stirred at room temperature for 8 hours. After concentrated, the resultant is purified by preparative TLC (thickness: 0.5 mm, methanol/(a saturated ammonia solution in chloroform)=1/10), extracted with saturated aqueous sodium hydrogen carbonate solution/chloroform. The organic layer is dried over sodium sulfate, and concentrated to give the desired N,N-diethyl-2-(3-{(2R)-2-[(2 R)-2-hydroxy-2-(4-hydroxyphenyl) ethylamino]propyl}-1H-indol-7-yl-oxy)acetamide (15 mg, yield: 55%).

reactant | 2-[3-((2R)-2-{2-[4-(tert-butyldimethylsilyloxy)-phenyl]-(2R)-2-(triethylsilyloxy)ethylamino}-propyl)-1H-indol-7-yloxy]-N,N-diethylacetamide | 0.060 mmol, 40 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)[C@H](CN[C@@H](CC1=CNC2=C(C=CC=C12)OCC(=O)N(CC)CC)C)O[Si](CC)(CC)CC | C37H61N3O4Si2
reactant | TBAF | 1 mmol, 261 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | N,N-diethyl-2-(3-{(2R)-2-[(2 R)-2-hydroxy-2-(4-hydroxyphenyl) ethylamino]propyl}-1H-indol-7-yl-oxy)acetamide | 15 mg, yield: 55% | C(C)N(C(COC=1C=CC=C2C(=CNC12)C[C@@H](C)NC[C@@H](C1=CC=C(C=C1)O)O)=O)CC | C25H33N3O4
